Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
First time seizure, left temporal lesion
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ yo year-old right-handed man with no past
medical history who was transferred from ___ after
first time seizure and CTH concerning for left temporal 
hyerdense
lesion. 

Night prior to presentation, patient was drinking alcohol and
using cocaine. This is a weekly routine, describes himself as a
"heavy drinker" and drink ___ bottles of alcohol on weekends, 
but
not during weekdays. He uses cocaine and smokes cigarettes when
drinking, but denies other drug use. He was at home resting
today, when around 1:30PM family witnessed the patient's eyes
roll backwards and shaking movements of bilateral arms and legs.
Lasted around 4 minutes before self resolving. Bit tongue, but 
no
loss of bowel/ bladder. He reports his body feeling numb prior 
to
the episode, but does not recall further events. Denies headache
prior to event or after. Has not been ill proceeding symptoms 
and
denies N/V/F/C, chest pain, cough, diarrhea. He was reportedly
back to baseline within 10 minutes. Brought to ___
and then transferred to ___ for further evaluation when ___
revealed 15 x 8 mm hyperdense lesion of the left temporal lobe.
In ED, was given 1000 mg Keppra load.

Patient denies prior seizure history. He is not aware of taking
more than his normal amount of cocaine, denies source of 
cocaine.

Risk factors for seizures: 
- Head Trauma: denies
- CNS Infections: denies
- Family History of Seizures: father had one seizure, no further
details known. Do not believe he was on medications for seizures
- Developmental Delay: denies
- Febrile Seizures: denies
- CNS Tumors: denies
- CNS Vascular Disease: Denies

On neuro ROS,  "some time" of blurry vision in both eyes, but
denies headache, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, paresthesia. No bowel or bladder 
incontinence
or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
None
 
Social History:
___
Family History:
Father with one lifetime seizure as above. Denies family history
of brain tumors, strokes, bleeding/clotting disorders, vascular
abnormalities.
 
Physical Exam:
Admission:
Vitals: 
T 97.9 HR: 83  BP: 122/96 RR:18 O2 96% RA 
 

General: Awake, cooperative, NAD.
HEENT: NC/AT, small tongue laceration
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 6 to 4mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch or cold sensation
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Romberg absent.

=
================================================================

Discharge:
24 HR Data (last updated ___ @ 752)
    Temp: 97.5 (Tm 97.9), BP: 86/54 (86-115/54-74), HR: 54 
(54-73), RR: 18, O2 sat: 99% (96-99), O2 delivery: RA, Wt: 182.4 
lb/82.74 kg  

General: Awake, cooperative, NAD.
HEENT: NC/AT, tongue laceration
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused, no murmur

Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive.
Language is fluent. Difficulties with repeating a simple 
sentence. 
There were no paraphasic errors. Able to name low and high 
frequency objects though with mistakes: ___. Able to follow 
both midline and appendicular
commands. 

-Cranial Nerves:
II: PERRL 5 to 3mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
but subtle R pronation. No adventitious movements, such as 
tremor, noted. No
asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch or cold sensation
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Deferred.
 
Pertinent Results:
CTA HEAD W&W/O C & RECONS
Wet Read by ___. on SAT ___ 7:48 ___ 
CT HEAD WITHOUT CONTRAST: 
There is re-demonstration of a hyperdense focus in medial left 
temporal lobe 
measuring 12 by 10 mm, not substantially changed in appearance 
from prior 
study. There is no evidence of no evidence of infarction, edema, 
or mass.  
The ventricles and sulci are normal in size and configuration. 
  
CTA HEAD AND NECK: 
No definitive correlating findings of AVM are visualized on CTA 
in the area of 
hyperdense left medial temporal focus on noncontrast evaluation. 
The vessels 
of the circle of ___ and their principal intracranial 
branches appear 
normal without stenosis, occlusion, or aneurysm formation. The 
dural venous 
sinuses are patent. 
The carotid and vertebral arteries and their major branches 
appear normal with 
no evidence of stenosis or occlusion. There is no evidence of 
internal carotid 
stenosis by NASCET criteria. 
  
Final read pending 3D reformats. 

MR HEAD W & W/O CONTRAST 
IMPRESSION:  
1. Examination is mildly degraded by motion. 
2. Findings most consistent with a cavernous malformation in the 
medial left 
temporal lobe measuring up to 1.4 cm. No surrounding edema to 
suggest acute 
bleeding. 
3. No additional lesions identified. 
4. No evidence of acute infarction or intracranial hemorrhage. 

 
Brief Hospital Course:
In brief, this is a ___ right-handed male with a history 
of cocaine use who presented from an outside hospital after a 
first-time seizure with a head CT concerning for a left temporal 
hyperdense lesion.

Upon arrival the patient was normotensive.  Exam was nonfocal.  
Laboratory tests were notable for a mildly elevated creatinine 
to 1.4 likely in the setting of dehydration.  Head CT from the 
outside institution was reviewed and a hyperdense left temporal 
lesion was confirmed.  A CTA of the head and neck redemonstrated 
a hyperdense focus in the medial left temporal lobe measuring 12 
x 10 mm with no significant change from the prior scan.  There 
was no evidence of infarction, edema or mass.  On the CTA there 
was no definitive AVM visualized.  We proceeded with MR imaging 
of the brain which showed findings consistent with a cavernous 
malformation in the medial left temporal lobe measuring up to 
1.4 centimeters.

Overall we think that the preceding cocaine use might have 
precipitated hemorrhage from a pre-existing cavernous 
malformation leading to a seizure (semiology primary or 
secondary generalized tonic clonic).  Patient was started on 
empiric levetiracetam.  Diagnosis and seizure precautions 
including the recommendation to not drive or operate any 
vehicles was discussed in detail.  The patient will follow-up in 
our neurology clinic with plans to repeat a brain MRI in 2 
months to further evaluate for vascular malformation.  Patient 
will also follow-up in ___ clinic.  

During the admission, the patient also met with our social work 
team to discuss his cocaine use.  Resources were provided.

Transitional issues:
-Continue levetiracetam at 750 mg twice daily
-Repeat brain MRI in 2 months
-Follow-up in neurology clinic
-Follow-up in ___ clinic with Dr. ___ in two weeks
-Follow-up with mental health and addiction programs.  Resources 
were provided by our social work team.
 
Medications on Admission:
None
 
Discharge Medications:
1.  LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intraparenchymal hemorrhage, seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ Neurology Service following an 
episode concerning for seizure.  You have had several tests 
including a CT and an MRI scan of your brain which showed a 
small area of bleeding on the left side of your brain.  We think 
this bleeding was likely caused by your cocaine use and possible 
by an underlying malformation of the vessels, called cavernous 
malformation.

The bleed may have led to the seizure that you experienced.  You 
were started on an antiseizure medication called levetiracetam.  
You did not have any further seizures during this admission.  We 
will follow you in our neurology clinic and will plan for repeat 
MRI scan in 2 months.

During this admission, you also met with our social work team to 
address your cocaine use.  Resources were provided.  We 
recommended you stop using drugs as this could lead to a second 
bleed with possible catastrophic outcomes such as loss of 
language or paralysis.  Consistent with state law we also 
advised you that he should not drive until you have been 
seizure-free for over 6 months.

Transitional issues
-Follow-up with your primary care doctor within 1 week from 
discharge from hospital.
-Follow-up in our Neurology clinic.  You will be contacted with 
an appointment.  Please call ___ questions. 
-Follow-up in ___ clinic. You will be contacted with an 
appointment.
-Continue levetiracetam at 750 mg twice daily
-Routine seizure precautions
-Repeat MRI of the brain in 2 months.
-Follow-up with mental health and addiction counseling.  
Resources were provided.

 
Followup Instructions:
___